US09382188B2
D) 3-(4-((tert-butyl(dimethyl)silyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl)-2,2-dimethylpropanenitrile
Under a nitrogen atmosphere, to a solution of 3-(2-bromo-5-((tert-butyl(dimethyl)silyl)oxy)phenyl)-2,2-dimethylpropanenitrile (903 mg), 2-fluoro-5-methoxyphenylboronic acid (621 mg), tris(dibenzylideneacetone)dipalladium(0) (45 mg) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (79 mg) in toluene (10 mL) was added 2.0 M aqueous sodium carbonate solution (3.7 mL), and the mixture was stirred at 90° C. for 3 hr. The reaction mixture was filtered through celite, water was added to the filtrate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound as a crude product. This compound was used for the next step without further purification.

reactant | 3-(2-bromo-5-((tert-butyl(dimethyl)silyl)oxy)phenyl)-2,2-dimethylpropanenitrile | 903 mg | BrC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)CC(C#N)(C)C | C17H26BrNOSi
reactant | 2-fluoro-5-methoxyphenylboronic acid | 621 mg | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 79 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2.0 M, 3.7 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-((tert-butyl(dimethyl)silyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl)-2,2-dimethylpropanenitrile | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C#N)(C)C | C24H32FNO2Si
